US07825253B2
N2-(2-Methoxy-benzyl)-N5-(5-methyl-3H-imidazol-4-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=374.4 (M+H+), was prepared from 5-nitro-2-chloroquinoline, 2-methoxybenzylamine and 4-methyl-5-imidazole-carboxaldehyde as described in example 26.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 2-methoxybenzylamine | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | 4-methyl-5-imidazole-carboxaldehyde | CC=1N=CNC1C=O | C5H6N2O
product | N2-(2-Methoxy-benzyl)-N5-(5-methyl-3H-imidazol-4-ylmethyl)-quinoline-2,5-diamine | COC1=C(CNC2=NC=3C=CC=C(C3C=C2)NCC=2NC=NC2C)C=CC=C1 | C22H23N5O
